US05112998
In 5 ml of tetrahydrofuran was dissolved 100 mg of 20-(1,3-dioxolan-2-yl)-3β-acetoxy-1α-benzoyloxypregna-5,7-diene, followed by addition of 1 ml of water and 10 mg of p-toluenesulfonic acid. The mixture was stirred in an atmosphere of argon gas at 50° C. for 3 hours. The reaction mixture was then worked up in the same manner as Example 156 to give 45 mg of 3β-acetoxy-1α-benzoyloxypregna-5,7-diene-20-carbaldehyde showing the following physical properties.

reactant | 20-(1,3-dioxolan-2-yl)-3β-acetoxy-1α-benzoyloxypregna-5,7-diene | 100 mg | O1C(OCC1)C(C)[C@H]1CC[C@H]2C3=CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OC(C1=CC=CC=C1)=O)OC(C)=O | C33H42O6
reactant | water | 1 ml | O | H2O
reactant | p-toluenesulfonic acid | 10 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3β-acetoxy-1α-benzoyloxypregna-5,7-diene-20-carbaldehyde | 45 mg | C(C)(=O)O[C@@H]1CC2=CC=C3[C@@H]4CC[C@H](C(C)C=O)[C@]4(CC[C@@H]3[C@]2([C@H](C1)OC(C1=CC=CC=C1)=O)C)C | C31H38O5
